### PR TITLE
feat(Analysis/Complex/CauchyIntegral): Cauchy–Goursat for Unbounded Rectangles

### PR DESCRIPTION
**Pull request by thefundamentaltheor3m**
In this PR, we prove versions of the Cauchy-Goursat theorem where the contours in question are rectangular and unbounded (ie, where the contours look like the $\bigsqcup$ symbol). I am not sure if I have formalised these in the best way, or if `Analysis.Complex.CauchyIntegral` is the best place for them (it might be prudent to reorganise the file into multiple files at some point), but I believe this is a useful result. Suggestions welcome.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 1]
```diff
@@ -702,6 +703,210 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
+end aux
+
+variable {E : Type*} [NormedAddCommGroup E] [NormedSpace ℂ E] {f : ℂ → E} {x₁ x₂ : ℝ} (y : ℝ)
+
+section Tendsto_Zero
+
+/-- If $f(z) \to 0$ as $\Im(z) \to \infty$, then
+  $\lim_{m \to \infty} \int_{x_1}^{x_2} f(x + mI) dx = 0$. -/
+lemma tendsto_integral_atTop_nhds_zero_of_tendsto_im_atTop_nhds_zero
+    (htendsto : ∀ ε > 0, ∃ M : ℝ, ∀ z : ℂ, M ≤ z.im → ‖f z‖ < ε) :
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]:
```suggestion
    (htendsto : Tendsto f (comap im atTop) (𝓝 0)) :
```
More generally, what I think I would want to see here is something like the following, If `g` is a family of function (indexed with a variable `m`) and `g m` tends to zero uniformly on `Set.Ioo x₁ x₂`, then the integrals of these functions tend to zero. That's a nicer generality which will make this specific result relatively easy to conclude.

**Review by j-loreaux — COMMENTED** [review]
pretty much out of time for today, sorry.

**Comment by loefflerd** [comment]
Random drive-by remark: this reminds me strongly of an argument in another part of mathlib: 

https://github.com/leanprover-community/mathlib4/blob/1bc7728a050fc18ca2683f614c531cd7050ff063/Mathlib/Analysis/SpecialFunctions/Gaussian/FourierTransform.lean#L141

This is morally the same argument you're doing here, but the contour is a vertical rather than horizontal strip, and infinite at both ends rather than just one. I'm not sure if it's sensible / beneficial to try to unify the two treatments but maybe some ideas from one approach might help improve the other (either way around, or both).

File: Mathlib/Analysis/Complex/CauchyIntegral.lean (hunk 1 above)
Comment (thefundamentaltheor3m) [reply Mathlib/Analysis/Complex/CauchyIntegral.lean]: I'm sorry I took so long to address these comments! I wonder if it's possible to do this even more generally.

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 2]
```diff
@@ -701,6 +702,224 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
+/-- If a family of functions `g m` tends to zero uniformly along the product filter
+  `atTop ×ˢ comap im atTop` (i.e., as `m → ∞` and the imaginary part of the input → ∞ jointly),
+  then $\lim_{m \to \infty} \int_{x_1}^{x_2} g(m, x + m I) \, dx = 0$. This generalises
+  `tendsto_integral_atTop_nhds_zero_of_tendsto_im_atTop_nhds_zero`. -/
+lemma tendsto_integral_atTop_nhds_zero_of_tendsto_unif_im_atTop_nhds_zero
+    {g : ℝ → ℂ → E} (htendsto : TendstoUniformlyOnFilter g 0 atTop (comap im atTop)) :
+    Tendsto (fun (m : ℝ) ↦ ∫ (x : ℝ) in x₁..x₂, g m (x + m * I)) atTop (𝓝 0) := by
+  wlog hne : x₁ ≠ x₂
+  · rw [ne_eq, Decidable.not_not] at hne
+    simp only [hne, integral_same, tendsto_const_nhds_iff]
```
Comment (themathqueen) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]:
```suggestion
  · simp_all
```

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 3]
```diff
@@ -701,6 +702,224 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
+  simp only [NormedAddGroup.tendsto_nhds_zero, eventually_atTop, ge_iff_le]
+  intro ε hε
+  have hε' : 0 < (1 / 2) * (ε / |x₂ - x₁|) := by
+    simp only [one_div, inv_pos, Nat.ofNat_pos, mul_pos_iff_of_pos_left]
+    exact div_pos hε (abs_sub_pos.mpr hne.symm)
```
Comment (themathqueen) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]:
```suggestion
  have hε' : 0 < (1 / 2) * (ε / |x₂ - x₁|) := by linarith [div_pos hε (abs_sub_pos.mpr hne.symm)]
```

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 4]
```diff
@@ -701,6 +702,224 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
+  obtain ⟨pa, hpa, pb, hpb, hp⟩ :=
+    eventually_prod_iff.mp <| Metric.tendstoUniformlyOnFilter_iff.mp htendsto _ hε'
+  obtain ⟨M₁, hM₁⟩ := eventually_atTop.mp hpa
+  obtain ⟨K, hK⟩ := eventually_atTop.mp (eventually_comap.mp hpb)
+  refine ⟨max M₁ K, fun m hm => ?_⟩
```
Comment (themathqueen) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]:
```suggestion
  refine ⟨max M₁ K, fun m hm ↦ ?_⟩
```

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 5]
```diff
@@ -701,6 +702,224 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
+      refine intervalIntegral.norm_integral_le_of_norm_le_const fun x _ => ?_
+      have hbd := hp (hM₁ m (le_of_max_le_left hm))
+        (hK m (le_of_max_le_right hm) (x + m * I) (im_of_real_add_real_mul_I x m))
+      simp only [Pi.zero_apply, dist_zero_left] at hbd
+      exact hbd.le
+  _ = (1 / 2) * ε := by
+      rw [mul_assoc]
+      have : 0 ≠ |x₂ - x₁| := ne_of_lt (abs_sub_pos.mpr hne.symm)
+      field_simp [this]
+  _ < ε := by linarith
```
Comment (themathqueen) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]: indent the calc block: (also, here's a slight golf - also changed the use of the private lemma `im_of_real_add_real_mul_I` to just `simp`)
```suggestion
    _ ≤ ((1 / 2) * (ε / |x₂ - x₁|)) * |x₂ - x₁| := by
      refine intervalIntegral.norm_integral_le_of_norm_le_const fun x _ ↦ ?_
      have hbd := hp (hM₁ m (le_of_max_le_left hm))
        (hK m (le_of_max_le_right hm) (x + m * I) (by simp))
      simp only [Pi.zero_apply, dist_zero_left] at hbd
      exact hbd.le
    _ = (1 / 2) * ε := by
      have : 0 ≠ |x₂ - x₁| := (abs_sub_pos.mpr hne.symm).ne
      field_simp
    _ < ε := by linarith
```

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 6]
```diff
@@ -701,6 +702,224 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
+end aux
+
+variable {E : Type*} [NormedAddCommGroup E] [NormedSpace ℂ E] {f : ℂ → E} {x₁ x₂ : ℝ} (y : ℝ)
+
+section Tendsto_Zero
+
+/-- If a family of functions `g m` tends to zero uniformly along the product filter
+  `atTop ×ˢ comap im atTop` (i.e., as `m → ∞` and the imaginary part of the input → ∞ jointly),
+  then $\lim_{m \to \infty} \int_{x_1}^{x_2} g(m, x + m I) \, dx = 0$. This generalises
+  `tendsto_integral_atTop_nhds_zero_of_tendsto_im_atTop_nhds_zero`. -/
```
Comment (themathqueen) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]: no need to indent this
```suggestion
`atTop ×ˢ comap im atTop` (i.e., as `m → ∞` and the imaginary part of the input → ∞ jointly),
then $\lim_{m \to \infty} \int_{x_1}^{x_2} g(m, x + m I) \, dx = 0$. This generalises
`tendsto_integral_atTop_nhds_zero_of_tendsto_im_atTop_nhds_zero`. -/
```

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 7]
```diff
@@ -701,6 +702,224 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
+      simp only [Pi.zero_apply, dist_zero_left] at hbd
+      exact hbd.le
+  _ = (1 / 2) * ε := by
+      rw [mul_assoc]
+      have : 0 ≠ |x₂ - x₁| := ne_of_lt (abs_sub_pos.mpr hne.symm)
+      field_simp [this]
+  _ < ε := by linarith
+
+/-- If $f(z) \to 0$ as $\Im(z) \to \infty$, then
+  $\lim_{m \to \infty} \int_{x_1}^{x_2} f(x + mI) dx = 0$. -/
```
Comment (themathqueen) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]:
```suggestion
$\lim_{m \to \infty} \int_{x_1}^{x_2} f(x + mI) dx = 0$. -/
```

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 8]
```diff
@@ -701,6 +702,224 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
+lemma tendsto_integral_atTop_nhds_zero_of_tendsto_im_atTop_nhds_zero
+    (htendsto : Tendsto f (comap im atTop) (𝓝 0)) :
+    Tendsto (fun (m : ℝ) ↦ ∫ (x : ℝ) in x₁..x₂, f (x + m * I)) atTop (𝓝 0) :=
+  tendsto_integral_atTop_nhds_zero_of_tendsto_unif_im_atTop_nhds_zero (g := fun _ => f) <|
```
Comment (themathqueen) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]:
```suggestion
  tendsto_integral_atTop_nhds_zero_of_tendsto_unif_im_atTop_nhds_zero (g := fun _ ↦ f) <|
```

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 9]
```diff
@@ -701,6 +702,224 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
+      + (I • ∫ (t : ℝ) in y..m, f (x₂ + t * I)) - (I • ∫ (t : ℝ) in y..m, f (x₁ + t * I))
+    = 0 := by
+  intro m hm
+  calc _
+  _ = (((∫ (t : ℝ) in (x₁ + y * I).re..(x₂ + m * I).re, f (t + (x₁ + y * I).im * I))
+      - ∫ (t : ℝ) in (x₁ + y * I).re..(x₂ + m * I).re, f (t + (x₂ + m * I).im * I))
+      + I • ∫ (t : ℝ) in (x₁ + y * I).im..(x₂ + m * I).im, f ((x₂ + m * I).re + t * I))
+      - I • ∫ (t : ℝ) in (x₁ + y * I).im..(x₂ + m * I).im, f ((x₁ + y * I).re + t * I) := by
+      simp only [re_of_real_add_real_mul_I x₁ y, re_of_real_add_real_mul_I x₂ m,
+                 im_of_real_add_real_mul_I x₁ y, im_of_real_add_real_mul_I x₂ m]
```
Comment (themathqueen) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]:
```suggestion
      simp
```

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 10]
```diff
@@ -701,6 +702,224 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
+section Eventually_Eq_Zero
+
+private lemma hzero (hcont : ContinuousOn f ([[x₁, x₂]] ×ℂ (Ici y))) (s : Set ℂ) (hs : s.Countable)
+    (hdiff : ∀ x ∈ ((Ioo (min x₁ x₂) (max x₁ x₂)) ×ℂ (Ioi y)) \ s, DifferentiableAt ℂ f x) :
+    ∀ m ≥ y, (∫ (x : ℝ) in x₁..x₂, f (x + y * I)) - (∫ (x : ℝ) in x₁..x₂, f (x + m * I))
+      + (I • ∫ (t : ℝ) in y..m, f (x₂ + t * I)) - (I • ∫ (t : ℝ) in y..m, f (x₁ + t * I))
+    = 0 := by
+  intro m hm
+  calc _
+  _ = (((∫ (t : ℝ) in (x₁ + y * I).re..(x₂ + m * I).re, f (t + (x₁ + y * I).im * I))
```
Comment (themathqueen) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]: please indent this calc block too

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 11]
```diff
@@ -701,6 +702,224 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
+        exact Icc_subset_Ici_self
+      · intro z hz
+        apply hdiff z
+        obtain ⟨hz₁, hz₂⟩ := hz
+        refine ⟨?_, hz₂⟩
+        rw [mem_reProdIm] at hz₁ ⊢
+        refine ⟨hz₁.1, ?_⟩
+        rw [mem_Ioi]
+        rw [inf_eq_left.2 hm] at hz₁
+        exact hz₁.2.1
```
Comment (themathqueen) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]:
```suggestion
      simp
  _ = 0 := by
    refine Complex.integral_boundary_rect_eq_zero_of_differentiable_on_off_countable
      f (x₁ + y * I) (x₂ + m * I) s hs ?_ ?_ <;> simp
    · grind [hcont.mono, reProdIm_subset_iff, uIcc_of_le]
    · grind [mem_reProdIm]
```

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 12]
```diff
@@ -701,6 +702,224 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
+    (hcont : ContinuousOn f ([[x₁, x₂]] ×ℂ (Ici y))) (s : Set ℂ) (hs : s.Countable)
+    (hdiff : ∀ x ∈ ((Ioo (min x₁ x₂) (max x₁ x₂)) ×ℂ (Ioi y)) \ s, DifferentiableAt ℂ f x) :
+    (fun (m : ℝ) ↦
+      (∫ (x : ℝ) in x₁..x₂, f (x + y * I))
+        - (∫ (x : ℝ) in x₁..x₂, f (x + m * I))
+        + (I • ∫ (t : ℝ) in y..m, f (x₂ + t * I))
+        - (I • ∫ (t : ℝ) in y..m, f (x₁ + t * I)))
+    =ᶠ[atTop] (fun (_ : ℝ) ↦ 0) := by
+  filter_upwards [eventually_ge_atTop y] with m hm
+  exact hzero y hcont s hs hdiff m hm
```
Comment (themathqueen) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]:
```suggestion
  filter_upwards [eventually_ge_atTop y] with m hm using hzero y hcont s hs hdiff m hm
```

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 13]
```diff
@@ -701,6 +702,224 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
+it will be compatible with `tendsto_congr'`, which is useful for applications. -/
+lemma integral_boundary_rect_eq_zero_eventually_atTop_of_differentiable_on_off_countable
+    (hcont : ContinuousOn f ([[x₁, x₂]] ×ℂ (Ici y))) (s : Set ℂ) (hs : s.Countable)
+    (hdiff : ∀ x ∈ ((Ioo (min x₁ x₂) (max x₁ x₂)) ×ℂ (Ioi y)) \ s, DifferentiableAt ℂ f x) :
+    (fun (m : ℝ) ↦
+      (∫ (x : ℝ) in x₁..x₂, f (x + y * I))
+        - (∫ (x : ℝ) in x₁..x₂, f (x + m * I))
+        + (I • ∫ (t : ℝ) in y..m, f (x₂ + t * I))
+        - (I • ∫ (t : ℝ) in y..m, f (x₁ + t * I)))
+    =ᶠ[atTop] (fun (_ : ℝ) ↦ 0) := by
```
Comment (themathqueen) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]:
```suggestion
        - (I • ∫ (t : ℝ) in y..m, f (x₁ + t * I))) =ᶠ[atTop] (fun (_ : ℝ) ↦ 0) := by
```

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 14]
```diff
@@ -701,6 +702,224 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
+    (hdiff : ∀ x ∈ ((Ioo (min x₁ x₂) (max x₁ x₂)) ×ℂ (Ioi y)) \ s, DifferentiableAt ℂ f x)
+    {C₂ : E} (hC₂ : Tendsto (fun m ↦ I • ∫ (t : ℝ) in y..m, f (x₂ + t * I)) atTop (𝓝 C₂))
+    (htendsto : Tendsto f (comap im atTop) (𝓝 0)) :
+    Tendsto (fun m ↦ I • ∫ (t : ℝ) in y..m, f (x₁ + t * I)) atTop <|
+      𝓝 ((∫ (t : ℝ) in x₁..x₂, f (t + y * I)) + C₂) := by
+  have heventually : (fun (m : ℝ) ↦
+      (∫ (x : ℝ) in x₁..x₂, f (x + y * I))
+        - (∫ (x : ℝ) in x₁..x₂, f (x + m * I))
+        + (I • ∫ (t : ℝ) in y..m, f (x₂ + t * I)))
+      =ᶠ[atTop] (fun m ↦ I • ∫ (t : ℝ) in y..m, f (x₁ + t * I)) := by
```
Comment (themathqueen) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]:
```suggestion
        + (I • ∫ (t : ℝ) in y..m, f (x₂ + t * I))) =ᶠ[atTop]
      (fun m ↦ I • ∫ (t : ℝ) in y..m, f (x₁ + t * I)) := by
```

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 15]
```diff
@@ -701,6 +702,224 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
+    (hdiff : ∀ x ∈ ((Ioo (min x₁ x₂) (max x₁ x₂)) ×ℂ (Ioi y)) \ s, DifferentiableAt ℂ f x)
+    {C₁ : E} (hC₁ : Tendsto (fun m ↦ I • ∫ (t : ℝ) in y..m, f (x₁ + t * I)) atTop (𝓝 C₁))
+    {C₂ : E} (hC₂ : Tendsto (fun m ↦ I • ∫ (t : ℝ) in y..m, f (x₂ + t * I)) atTop (𝓝 C₂))
+    (htendsto : Tendsto f (comap im atTop) (𝓝 0)) :
+    (∫ (t : ℝ) in x₁..x₂, f (t + y * I)) + C₂ - C₁ = 0 := by
+  rw [sub_eq_zero]
+  symm
+  exact tendsto_nhds_unique hC₁ <|
+    tendsto_integral_boundary_unbounded_rect_one_side_atTop_nhds_sum_other_two_sides
+      y hcont s hs hdiff hC₂ htendsto
```
Comment (themathqueen) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]: you can just do this instead
```suggestion
  exact (tendsto_nhds_unique hC₁ <|
    tendsto_integral_boundary_unbounded_rect_one_side_atTop_nhds_sum_other_two_sides
      y hcont s hs hdiff hC₂ htendsto).symm
```

**Review by themathqueen — COMMENTED** [review]
Here's a first set of comments :)

File: Mathlib/Analysis/Complex/CauchyIntegral.lean (hunk 5 above)
Comment (thefundamentaltheor3m) [reply Mathlib/Analysis/Complex/CauchyIntegral.lean]: The private lemma is quite outdated, thank you for pointing it out it should be removed! Even when I wrote it, I was surprised I needed it...

File: Mathlib/Analysis/Complex/CauchyIntegral.lean (hunk 10 above)
Comment (thefundamentaltheor3m) [reply Mathlib/Analysis/Complex/CauchyIntegral.lean]: I've edited it a little, not too sure about the style preferences here, would welcome your opinion. Thanks!

**Comment by thefundamentaltheor3m** [comment]
Thank you very much for the comments!

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 16]
```diff
@@ -700,6 +701,200 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
+  obtain ⟨M₁, hM₁⟩ := eventually_atTop.mp hpa
+  obtain ⟨K, hK⟩ := eventually_atTop.mp (eventually_comap.mp hpb)
+  refine ⟨max M₁ K, fun m hm ↦ ?_⟩
+  calc ‖∫ (x : ℝ) in x₁..x₂, g m (↑x + ↑m * I)‖
+    _ ≤ ((1 / 2) * (ε / |x₂ - x₁|)) * |x₂ - x₁| := by
+      refine intervalIntegral.norm_integral_le_of_norm_le_const fun x _ ↦ ?_
+      have hbd := hp (hM₁ m (le_of_max_le_left hm))
+        (hK m (le_of_max_le_right hm) (x + m * I) (by simp))
+      simp only [Pi.zero_apply, dist_zero_left] at hbd
+      exact hbd.le
```
Comment (themathqueen) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]:
```suggestion
      simpa using hp (hM₁ m (le_of_max_le_left hm))
        (hK m (le_of_max_le_right hm) (x + m * I) (by simp)) |>.le
```

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 17]
```diff
@@ -700,6 +701,200 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
+    _ = (1 / 2) * ε := by
+      have : 0 ≠ |x₂ - x₁| := (abs_sub_pos.mpr hne.symm).ne
+      field_simp
```
Comment (themathqueen) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]:
```suggestion
    _ = (1 / 2) * ε := by field_simp
```

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 18]
```diff
@@ -700,6 +701,200 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
+open scoped Interval Topology
+
+section aux
+
+-- Helper lemmas that make it easier to work with `x + y * I` where `x y : ℝ`.
+private lemma re_of_real_add_real_mul_I (x y : ℝ) : (x + y * I).re = x := by simp
+private lemma im_of_real_add_real_mul_I (x y : ℝ) : (x + y * I).im = y := by simp
+
+end aux
+
```
Comment (themathqueen) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]:
```suggestion
```

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 19]
```diff
@@ -702,6 +703,188 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
+      tendsto_left_nhds_uniformity.comp (htendsto.comp tendsto_snd)
+
+end tendsto_zero
+
+section eventually_eq_zero
+
+private lemma hzero (hcont : ContinuousOn f ([[x₁, x₂]] ×ℂ (Ici y))) (s : Set ℂ) (hs : s.Countable)
+    (hdiff : ∀ x ∈ ((Ioo (min x₁ x₂) (max x₁ x₂)) ×ℂ (Ioi y)) \ s, DifferentiableAt ℂ f x) :
+    ∀ m ≥ y, (∫ (x : ℝ) in x₁..x₂, f (x + y * I)) - (∫ (x : ℝ) in x₁..x₂, f (x + m * I))
+      + (I • ∫ (t : ℝ) in y..m, f (x₂ + t * I)) - (I • ∫ (t : ℝ) in y..m, f (x₁ + t * I))
```
Comment (themathqueen) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]: I think the convention for trailing equations is to add the operations at the end, so

```suggestion
    ∀ m ≥ y, (∫ (x : ℝ) in x₁..x₂, f (x + y * I)) - (∫ (x : ℝ) in x₁..x₂, f (x + m * I)) +
      (I • ∫ (t : ℝ) in y..m, f (x₂ + t * I)) - (I • ∫ (t : ℝ) in y..m, f (x₁ + t * I))
```

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 20]
```diff
@@ -702,6 +703,188 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
+        = 0 := fun m hm ↦ calc
+  _ = (((∫ (t : ℝ) in (x₁ + y * I).re..(x₂ + m * I).re, f (t + (x₁ + y * I).im * I))
+      - ∫ (t : ℝ) in (x₁ + y * I).re..(x₂ + m * I).re, f (t + (x₂ + m * I).im * I))
+      + I • ∫ (t : ℝ) in (x₁ + y * I).im..(x₂ + m * I).im, f ((x₂ + m * I).re + t * I))
+      - I • ∫ (t : ℝ) in (x₁ + y * I).im..(x₂ + m * I).im, f ((x₁ + y * I).re + t * I) := by
```
Comment (themathqueen) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]:
```suggestion
  _ = (((∫ (t : ℝ) in (x₁ + y * I).re..(x₂ + m * I).re, f (t + (x₁ + y * I).im * I)) -
      ∫ (t : ℝ) in (x₁ + y * I).re..(x₂ + m * I).re, f (t + (x₂ + m * I).im * I)) +
      I • ∫ (t : ℝ) in (x₁ + y * I).im..(x₂ + m * I).im, f ((x₂ + m * I).re + t * I)) -
      I • ∫ (t : ℝ) in (x₁ + y * I).im..(x₂ + m * I).im, f ((x₁ + y * I).re + t * I) := by
```

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 21]
```diff
@@ -702,6 +703,188 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
+lemma are not particularly nontrivial. The point is to state this fact using `eventually` result so
+it will be compatible with `tendsto_congr'`, which is useful for applications. -/
+lemma integral_boundary_rect_eq_zero_eventually_atTop_of_differentiable_on_off_countable
+    (hcont : ContinuousOn f ([[x₁, x₂]] ×ℂ (Ici y))) (s : Set ℂ) (hs : s.Countable)
+    (hdiff : ∀ x ∈ ((Ioo (min x₁ x₂) (max x₁ x₂)) ×ℂ (Ioi y)) \ s, DifferentiableAt ℂ f x) :
+    (fun (m : ℝ) ↦
+      (∫ (x : ℝ) in x₁..x₂, f (x + y * I))
+        - (∫ (x : ℝ) in x₁..x₂, f (x + m * I))
+        + (I • ∫ (t : ℝ) in y..m, f (x₂ + t * I))
+        - (I • ∫ (t : ℝ) in y..m, f (x₁ + t * I))) =ᶠ[atTop] (fun (_ : ℝ) ↦ 0) := by
```
Comment (themathqueen) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]: same here

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 22]
```diff
@@ -702,6 +703,188 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
+    (hdiff : ∀ x ∈ ((Ioo (min x₁ x₂) (max x₁ x₂)) ×ℂ (Ioi y)) \ s, DifferentiableAt ℂ f x)
+    {C₂ : E} (hC₂ : Tendsto (fun m ↦ I • ∫ (t : ℝ) in y..m, f (x₂ + t * I)) atTop (𝓝 C₂))
+    (htendsto : Tendsto f (comap im atTop) (𝓝 0)) :
+    Tendsto (fun m ↦ I • ∫ (t : ℝ) in y..m, f (x₁ + t * I)) atTop <|
+      𝓝 ((∫ (t : ℝ) in x₁..x₂, f (t + y * I)) + C₂) := by
+  have heventually : (fun (m : ℝ) ↦
+      (∫ (x : ℝ) in x₁..x₂, f (x + y * I))
+        - (∫ (x : ℝ) in x₁..x₂, f (x + m * I))
+        + (I • ∫ (t : ℝ) in y..m, f (x₂ + t * I))) =ᶠ[atTop]
+      (fun m ↦ I • ∫ (t : ℝ) in y..m, f (x₁ + t * I)) := by
```
Comment (themathqueen) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]: and here

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 23]
```diff
@@ -702,6 +703,188 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
+applications involving specific functions, there will already be proofs of integrability.
+-/
+theorem integral_boundary_unbounded_rect_eq_zero_of_differentiable_on_off_countable_of_integrable_on
+    (hcont : ContinuousOn f ([[x₁, x₂]] ×ℂ (Ici y))) (s : Set ℂ) (hs : s.Countable)
+    (hdiff : ∀ x ∈ ((Ioo (min x₁ x₂) (max x₁ x₂)) ×ℂ (Ioi y)) \ s, DifferentiableAt ℂ f x)
+    (hint₁ : IntegrableOn (fun (t : ℝ) ↦ f (x₁ + t * I)) (Ioi y) volume)
+    (hint₂ : IntegrableOn (fun (t : ℝ) ↦ f (x₂ + t * I)) (Ioi y) volume)
+    (htendsto : Tendsto f (comap im atTop) (𝓝 0)) :
+    (∫ (x : ℝ) in x₁..x₂, f (x + y * I)) + (I • ∫ (t : ℝ) in Ioi y, f (x₂ + t * I))
+      - (I • ∫ (t : ℝ) in Ioi y, f (x₁ + t * I)) = 0 := by
```
Comment (themathqueen) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]: and here

```suggestion
    (∫ (x : ℝ) in x₁..x₂, f (x + y * I)) + (I • ∫ (t : ℝ) in Ioi y, f (x₂ + t * I)) -
      (I • ∫ (t : ℝ) in Ioi y, f (x₁ + t * I)) = 0 := by
```

File: Mathlib/Analysis/Complex/CauchyIntegral.lean (hunk 19 above)
Comment (thefundamentaltheor3m) [reply Mathlib/Analysis/Complex/CauchyIntegral.lean]: Ahh I see, thanks!

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 24]
```diff
@@ -702,6 +703,188 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
+      (∫ (x : ℝ) in x₁..x₂, f (x + y * I)) -
+      (∫ (x : ℝ) in x₁..x₂, f (x + m * I)) +
+      (I • ∫ (t : ℝ) in y..m, f (x₂ + t * I))) =ᶠ[atTop]
+      (fun m ↦ I • ∫ (t : ℝ) in y..m, f (x₁ + t * I)) := by
+    filter_upwards [eventually_ge_atTop y] with m hm
+    rw [← sub_eq_zero, ← (hzero y hcont s hs hdiff m hm)]
+  rw [tendsto_congr' heventually.symm, ← sub_zero (∫ (t : ℝ) in x₁..x₂, f (↑t + ↑y * I))]
+  refine (Tendsto.sub ?_ ?_).add hC₂
+  · rw [sub_zero, tendsto_const_nhds_iff]
+  · exact tendsto_integral_atTop_nhds_zero_of_tendsto_im_atTop_nhds_zero htendsto
```
Comment (themathqueen) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]:
```suggestion
  refine .congr' ((eventually_ge_atTop y).mono fun m hm ↦
    sub_eq_zero.mp (hzero y hcont s hs hdiff m hm)) ?_
  simpa using (tendsto_const_nhds.sub
    (tendsto_integral_atTop_nhds_zero_of_tendsto_im_atTop_nhds_zero htendsto)).add hC₂
```

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 25]
```diff
@@ -707,6 +708,181 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
+variable {E : Type*} [NormedAddCommGroup E] [NormedSpace ℂ E] {f : ℂ → E} {x₁ x₂ : ℝ} (y : ℝ)
+
+section tendsto_zero
+
+/-- If a family of functions `g m` tends to zero uniformly along the product filter
+`atTop ×ˢ comap im atTop` (i.e., as `m → ∞` and the imaginary part of the input → ∞ jointly),
+then $\lim_{m \to \infty} \int_{x_1}^{x_2} g(m, x + m I) \, dx = 0$. This generalises
+`tendsto_integral_atTop_nhds_zero_of_tendsto_im_atTop_nhds_zero`. -/
+lemma tendsto_integral_atTop_nhds_zero_of_tendsto_unif_im_atTop_nhds_zero
+    {g : ℝ → ℂ → E} (htendsto : TendstoUniformlyOnFilter g 0 atTop (comap im atTop)) :
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]: Since the integral is unaffected by values of `g m` oustide the strip, you should be able to reduce this to:

```suggestion
lemma tendsto_integral_atTop_nhds_zero_of_tendsto_unif_im_atTop_nhds_zero
    {g : ℝ → ℂ → E} (htendsto : TendstoUniformlyOnFilter g 0 atTop (comap im atTop ⊓ 𝓟 ([[x₁, x₂]] ×ℂ univ)) :
```

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 26]
```diff
@@ -707,6 +708,181 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
+      refine intervalIntegral.norm_integral_le_of_norm_le_const fun x _ ↦ ?_
+      simpa using hp (hM₁ m (le_of_max_le_left hm))
+        (hK m (le_of_max_le_right hm) (x + m * I) (by simp)) |>.le
+    _ = (1 / 2) * ε := by field_simp
+    _ < ε := by linarith
+
+/-- If $f(z) \to 0$ as $\Im(z) \to \infty$, then
+$\lim_{m \to \infty} \int_{x_1}^{x_2} f(x + mI) dx = 0$. -/
+lemma tendsto_integral_atTop_nhds_zero_of_tendsto_im_atTop_nhds_zero
+    (htendsto : Tendsto f (comap im atTop) (𝓝 0)) :
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]: likewise
```suggestion
    (htendsto : Tendsto f (comap im atTop ⊓ 𝓟 ([[x₁, x₂]] ×ℂ univ)) (𝓝 0)) :
```

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 27]
```diff
@@ -707,6 +708,181 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
+/-- **Deformation of unbounded rectangular contours:** Given two infinite vertical contours such
+that a function satisfies Cauchy-Goursat conditions between them, interval integrals of increasing
+interval length along the first contour tend to the sum of a translation integral and the limit of
+interval integrals along the second integral. ("Unbounded rectangular contours" refers to contours
+that look like the disjoint union symbol "⨆") -/
+theorem tendsto_integral_boundary_unbounded_rect_one_side_atTop_nhds_sum_other_two_sides
+    (hcont : ContinuousOn f ([[x₁, x₂]] ×ℂ (Ici y))) (s : Set ℂ) (hs : s.Countable)
+    (hdiff : ∀ x ∈ ((Ioo (min x₁ x₂) (max x₁ x₂)) ×ℂ (Ioi y)) \ s, DifferentiableAt ℂ f x)
+    {C₂ : E} (hC₂ : Tendsto (fun m ↦ I • ∫ (t : ℝ) in y..m, f (x₂ + t * I)) atTop (𝓝 C₂))
+    (htendsto : Tendsto f (comap im atTop) (𝓝 0)) :
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]: Using `Ici y` here is of course the same as `univ` since were taking the inf with `comap im atTop`. You could use whichever you prefer.
```suggestion
    (htendsto : Tendsto f (comap im atTop ⊓ 𝓟 ([[x₁, x₂]] ×ℂ Ici y)) (𝓝 0)) :
```

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 28]
```diff
@@ -707,6 +708,181 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
+/-- **Deformation of unbounded rectangular contours:** Given two infinite vertical contours such
+that a function satisfies Cauchy-Goursat conditions between them, the limit of interval integrals
+along the first contour equals the sum of a translation integral and the limit of interval integrals
+along the second integral. -/
+theorem integral_boundary_unbounded_rect_eq_zero_of_differentiable_on_off_countable
+    (hcont : ContinuousOn f ([[x₁, x₂]] ×ℂ (Ici y))) (s : Set ℂ) (hs : s.Countable)
+    (hdiff : ∀ x ∈ ((Ioo (min x₁ x₂) (max x₁ x₂)) ×ℂ (Ioi y)) \ s, DifferentiableAt ℂ f x)
+    {C₁ : E} (hC₁ : Tendsto (fun m ↦ I • ∫ (t : ℝ) in y..m, f (x₁ + t * I)) atTop (𝓝 C₁))
+    {C₂ : E} (hC₂ : Tendsto (fun m ↦ I • ∫ (t : ℝ) in y..m, f (x₂ + t * I)) atTop (𝓝 C₂))
+    (htendsto : Tendsto f (comap im atTop) (𝓝 0)) :
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]: and here

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 29]
```diff
@@ -707,6 +708,181 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
+The sole difference is that the assumptions in this lemma do not include the factor of `I` that
+comes from contour parametrisation. The reason we state this version is that it might be more
+convenient to use in certain cases.
+-/
+theorem integral_boundary_unbounded_rect_eq_zero_of_differentiable_on_off_countable'
+    (hcont : ContinuousOn f ([[x₁, x₂]] ×ℂ (Ici y))) (s : Set ℂ) (hs : s.Countable)
+    (hdiff : ∀ x ∈ ((Ioo (min x₁ x₂) (max x₁ x₂)) ×ℂ (Ioi y)) \ s, DifferentiableAt ℂ f x)
+    {C₁ : E} (hC₁ : Tendsto (fun m ↦ ∫ (t : ℝ) in y..m, f (x₁ + t * I)) atTop (𝓝 C₁))
+    {C₂ : E} (hC₂ : Tendsto (fun m ↦ ∫ (t : ℝ) in y..m, f (x₂ + t * I)) atTop (𝓝 C₂))
+    (htendsto : Tendsto f (comap im atTop) (𝓝 0)) :
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]: and here

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 30]
```diff
@@ -707,6 +708,181 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
+that it requires the integral of the norm of the function to be finite rather than just that of the
+function. We nevertheless include this version of the theorem because it is likely that in
+applications involving specific functions, there will already be proofs of integrability.
+-/
+theorem integral_boundary_unbounded_rect_eq_zero_of_differentiable_on_off_countable_of_integrable_on
+    (hcont : ContinuousOn f ([[x₁, x₂]] ×ℂ (Ici y))) (s : Set ℂ) (hs : s.Countable)
+    (hdiff : ∀ x ∈ ((Ioo (min x₁ x₂) (max x₁ x₂)) ×ℂ (Ioi y)) \ s, DifferentiableAt ℂ f x)
+    (hint₁ : IntegrableOn (fun (t : ℝ) ↦ f (x₁ + t * I)) (Ioi y) volume)
+    (hint₂ : IntegrableOn (fun (t : ℝ) ↦ f (x₂ + t * I)) (Ioi y) volume)
+    (htendsto : Tendsto f (comap im atTop) (𝓝 0)) :
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]: and here

**Review by j-loreaux — COMMENTED** [review]
This is an important change because, without it, the lemmas require `f (x + I * y) → 0` as `y → ∞` for *all* values of `x`, which is much too stringent.

**Comment by j-loreaux** [comment]
One more thing: I don't want it for this PR, but clearly this only does unbounded "above" rectangles. Please add a TODO that we should add a version for "left", "right" and "down", and that this should come with some nice lemmas that help us get it nearly for free.

**Comment by thefundamentaltheor3m** [comment]
Thanks @j-loreaux for your suggestions. I definitely agree that the principal filter change is an important generalisation, thanks for pointing it out. TODO has also been added, and the module docstring updated with the key results in this PR.

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 31]
```diff
@@ -154,6 +167,13 @@ Finally, we use the properties of the Cauchy integrals established elsewhere (se
 `hasFPowerSeriesOn_cauchy_integral`) and Cauchy integral formula to prove that the original
 function is analytic on the open ball.
 
+## TODO
+
+* The results on unbounded rectangles only cover rectangles that are unbounded above. Add versions
+  for rectangles that are unbounded below, to the left and to the right, together with lemmas
+  transferring statements between the four cases, so that these follow readily from the the results
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]:
```suggestion
  transferring statements between the four cases, so that these follow readily from the results
```

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 32]
```diff
@@ -786,6 +806,190 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
+      simp only [Pi.zero_apply, dist_zero] at hp
+      refine intervalIntegral.norm_integral_le_of_norm_le_const fun x hx ↦ le_of_lt <| hp ?_ ?_
+      · exact hM₁ m <| le_of_max_le_left <| le_of_max_le_right hm
+      · apply hK m (le_of_max_le_right <| le_of_max_le_right <| hm) (x + m * I) (by simp)
+        simp only [mem_reProdIm, add_re, ofReal_re, mul_re, I_re, mul_zero, ofReal_im, I_im,
+          mul_one, sub_self, add_zero, add_im, mul_im, zero_add, mem_Ici]
+        refine ⟨?_, le_of_max_le_left hm⟩
+        grind [mem_uIcc, mem_uIoc]
+    _ = (1 / 2) * ε := by field_simp
+    _ < ε := by linarith
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]: You could add this right after `TendstoUniformlyOn.tendsto_intervalIntegral_of_continuousOn`
```lean
/-- If a family of functions tends to zero uniformly on `[[a, b]]`, then the corresponding
interval integrals tend to zero. Due to default values for the integral, this
does not
require additional hypotheses as does `TendstoUniformlyOn.tendsto_intervalIntegral_of_continuousOn`. -/
theorem _root_.TendstoUniformlyOn.tendsto_intervalIntegral_nhds_zero {l : Filter ι}
    {F : ι → ℝ → E} (h : TendstoUniformlyOn F 0 l [[a, b]]) :
    Tendsto (fun i ↦ ∫ x in a..b, F i x) l (𝓝 0) := by
  rw [NormedAddGroup.tendsto_nhds_zero]
  rw [tendstoUniformlyOn_iff] at h
  intro ε hε
  filter_upwards [h (ε / (|b - a| + 1)) (by positivity)] with i hi
  calc ‖∫ x in a..b, F i x‖
    _ ≤ ε / (|b - a| + 1) * |b - a| :=
      norm_integral_le_of_norm_le_const fun x hx ↦ by simpa using (hi x (uIoc_subset_uIcc hx)).le
    _ < ε := by field_simp; bound
```
then you can simplify the proof of this to:
```suggestion
  apply TendstoUniformlyOn.tendsto_intervalIntegral_nhds_zero
  rw [tendstoUniformlyOn_iff_tendstoUniformlyOnFilter]
  rw [tendstoUniformlyOnFilter_iff_tendsto] at htendsto ⊢
  refine htendsto.comp <| tendsto_fst.prodMk <| tendsto_inf.mpr ⟨?_, tendsto_principal.mpr ?_⟩
  · simpa [Function.comp_def] using tendsto_fst
  · filter_upwards [tendsto_fst.eventually_ge_atTop y,
      tendsto_snd.eventually (eventually_principal.mpr fun _ h ↦ h)] with q hq₁ hq₂
    simpa [Complex.mem_reProdIm] using ⟨hq₂, hq₁⟩
```

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 33]
```diff
@@ -786,6 +806,190 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
+it will be compatible with `tendsto_congr'`, which is useful for applications. -/
+lemma integral_boundary_rect_eq_zero_eventually_atTop_of_differentiable_on_off_countable
+    (hcont : ContinuousOn f ([[x₁, x₂]] ×ℂ (Ici y))) (s : Set ℂ) (hs : s.Countable)
+    (hdiff : ∀ x ∈ ((Ioo (min x₁ x₂) (max x₁ x₂)) ×ℂ (Ioi y)) \ s, DifferentiableAt ℂ f x) :
+    (fun (m : ℝ) ↦
+      (∫ (x : ℝ) in x₁..x₂, f (x + y * I)) -
+      (∫ (x : ℝ) in x₁..x₂, f (x + m * I)) +
+      (I • ∫ (t : ℝ) in y..m, f (x₂ + t * I)) -
+      (I • ∫ (t : ℝ) in y..m, f (x₁ + t * I))) =ᶠ[atTop] (fun (_ : ℝ) ↦ 0) := by
+  filter_upwards [eventually_ge_atTop y] with m hm using hzero y hcont s hs hdiff m hm
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]: I don't really think this is terribly useful.
```suggestion
```

File: Mathlib/Analysis/Complex/CauchyIntegral.lean [hunk 34]
```diff
@@ -786,6 +806,190 @@ theorem analyticAt_iff_eventually_differentiableAt {f : ℂ → E} {c : ℂ} :
...
+    (tendstoUniformlyOnFilter_iff_tendsto.mpr <|
+        tendsto_left_nhds_uniformity.comp (htendsto.comp tendsto_snd)).mono_right <|
+      inf_le_inf_left _ <| principal_mono.2 <| reProdIm_subset_iff.2 <|
+        prod_mono_right <| subset_univ _
+
+end tendsto_zero
+
+section eventually_eq_zero
+
+private lemma hzero (hcont : ContinuousOn f ([[x₁, x₂]] ×ℂ (Ici y))) (s : Set ℂ) (hs : s.Countable)
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/CauchyIntegral.lean]: I realize it's private, but let's come up with a better name.

**Review by j-loreaux — COMMENTED** [review]
After this, I'm content with this PR.

File: Mathlib/Analysis/Complex/CauchyIntegral.lean (hunk 32 above)
Comment (thefundamentaltheor3m) [reply Mathlib/Analysis/Complex/CauchyIntegral.lean]: Thanks!

File: Mathlib/Analysis/Complex/CauchyIntegral.lean (hunk 34 above)
Comment (thefundamentaltheor3m) [reply Mathlib/Analysis/Complex/CauchyIntegral.lean]: Agreed, apologies for not noticing this when copying the code over from sphere packing. Does `integral_intermediate_rectangle_eq_zero` sound ok? If not, do you have any suggestions?

**Review by j-loreaux — COMMENTED** [review]
This PR is somewhat niche, but I feel that it could address a real need. Some downsides are that it is not super general (e.g., it doesn't even deal with unbounded rectangular contours in different directions), let alone more general unbounded contours. Nevertheless, given that I don't think we have a theory in sight for those, and given that rectangular contours are fairly common, this seems useful.

At the same time, I'm not totally confident about the naming, nor about the finer details related to the integration side of the library. Therefore, I won't merge myself and I would like someone else to take a look.

maintainer merge?
